US05093353
3-(2-naphthoxy)-1-bromopropane
To a solution of 3.60 g (25 mmol) of 2-naphthol and 6.0 g (30 mmol) of 1,3-dibromopropane in dimethylformamide was added 7.25 g (52.5 mmol) of finely ground anhydrous potassium carbonate. The mixture was stirred vigorously overnight. Solvent was removed under reduced pressure. The residue was partitioned between ethyl acetate and water. The aqueous layer was further extracted twice with ethyl acetate. The combined organic extracts were dried over magnesium sulfate, and after filtration, the solvent was removed under reduced pressure. The residue was then chromatographed over silica gel using 10% methylene chloride/hexane as eluent to afford 1.66 g of the title compound, which was homogeneous by thin layer chromatography (5% by volume of ethyl acetate/hexane on silica gel plates).

reactant | 2-naphthol | 25 mmol, 3.60 g | C1=C(C=CC2=CC=CC=C12)O | C10H8O
reactant | 1,3-dibromopropane | 30 mmol, 6.0 g | BrCCCBr | C3H6Br2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 3-(2-naphthoxy)-1-bromopropane | 1.66 g | C1=C(C=CC2=CC=CC=C12)OCCCBr | C13H13BrO
